### PR TITLE
[Merged by Bors] - feat(Topology/Algebra): topology of pointwise convergence for continuous linear maps

### PR DESCRIPTION
**Pull request by mcdoll**
Introduces the topology of pointwise convergence, also known as the strong operator topology.

We prove basic convergence and continuity results by relating it to the topology of `Pi`.
We also show that for `F = 𝕜` it equivalent to the weak topology `WeakDual 𝕜 E` (and for that reason we prefer the name `PointwiseConvergenceCLM` over `ContinuousLinearMapSOT`, which would be consistent with `ContinuousLinearMapWOT`, the weak operator topology).

Co-authored-by: Anatole Dedecker <anatolededecker@gmail.com>

---

- [x] depends on: #11470
- [x] depends on: #11600

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Module/PointwiseConvergence.lean [hunk 1]
```diff
@@ -0,0 +1,155 @@
...
+
+
+
+## References
+
+* [F. Bar, *Quuxes*][bibkey]
+
+## Tags
+
+Foobars, barfoos
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Module/PointwiseConvergence.lean:35]: This needs filling out.

File: Mathlib/Topology/Algebra/Module/PointwiseConvergence.lean [hunk 2]
```diff
@@ -0,0 +1,155 @@
...
+variable {σ : 𝕜₁ →+* 𝕜₂}
+variable {E F : Type*} [AddCommGroup E] [TopologicalSpace E]
+  [AddCommGroup F] [TopologicalSpace F] [TopologicalAddGroup F]
+  [Module 𝕜 E] [Module 𝕜 F] [Module 𝕜₁ E] [Module 𝕜₂ F]
+
+open Topology
+
+variable (σ E F) in
+/-- The space of continuous linear maps equipped with the topology of pointwise/simple convergence,
+sometimes also called the strong operator topology.
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Module/PointwiseConvergence.lean:51]:
```suggestion
sometimes also called the *strong operator topology*. We avoid this terminology
since so many other things share similar names, and using "pointwise convergence"
in the name is more informative.
```

File: Mathlib/Topology/Algebra/Module/PointwiseConvergence.lean [hunk 3]
```diff
@@ -0,0 +1,155 @@
...
+  · intro h s hs u hu
+    rw [Filter.eventually_all_finite hs]
+    intro x _hx
+    exact h x u hu
+
+variable [ContinuousConstSMul 𝕜₂ F]
+
+variable (σ E F) in
+/-- Coercion from `E →Lₛ[𝕜] F` to `E →ₗ[𝕜] F` as a `𝕜`-linear map. -/
+def coeLM : (E →SLₛ[σ] F) →ₗ[𝕜₂] E →ₛₗ[σ] F where
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Module/PointwiseConvergence.lean:104]: Is there precedence for using `LM` like this (without `C`)? I think this should probably just be called `coeLinearMap` or `toLinearMap`.

File: Mathlib/Topology/Algebra/Module/PointwiseConvergence.lean [hunk 4]
```diff
@@ -0,0 +1,155 @@
...
+/-- The space of continuous linear maps equipped with the topology of pointwise/simple convergence,
+sometimes also called the strong operator topology.
+
+This topology is also known as the weak*-topology in the case that `σ = RingHom.id 𝕜` and `F = 𝕜` -/
+@[reducible]
+def PointwiseConvergenceCLM :=
+    UniformConvergenceCLM σ F {s : Set E | Finite s}
+
+@[inherit_doc]
+notation:25 E " →SLₛ[" σ "] " F => PointwiseConvergenceCLM σ E F
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Module/PointwiseConvergence.lean:59]: I think the `ₛ` is for "strong". Either we need to say it somewhere, or else use something slightly more descriptive, like `ₚₜ`.

File: Mathlib/Topology/Algebra/Module/PointwiseConvergence.lean [hunk 5]
```diff
@@ -0,0 +1,155 @@
...
+  exact (h x).continuousAt
+
+def _root_.ContinousLinearMap.toPointwiseConvergenceCLM : (E →SL[σ] F) →L[𝕜₂] (E →SLₛ[σ] F) where
+  toLinearMap := LinearMap.id
+  cont := by
+    apply continuous_of_continuous_eval
+    intro x
+    change (Continuous (· x))
+    --exact ContinuousLinearMap.continuous
+    sorry
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Module/PointwiseConvergence.lean:140]: I guess you know this isn't done?

**Review by j-loreaux — COMMENTED** [review]
This needs some love, but then I'm happy to get it in.

File: Mathlib/Topology/Algebra/Module/PointwiseConvergence.lean (hunk 5 above)
Comment (mcdoll) [reply Mathlib/Topology/Algebra/Module/PointwiseConvergence.lean:140]: Yes, I forgot to add the dependency on the other PR.

File: Mathlib/Topology/Algebra/Module/PointwiseConvergence.lean [hunk 6]
```diff
@@ -0,0 +1,154 @@
...
+
+protected theorem hasBasis_nhds_zero [TopologicalSpace F] [TopologicalAddGroup F] :
+    (𝓝 (0 : E →SLₚₜ[σ] F)).HasBasis
+      (fun SV : Set E × Set F => Finite SV.1 ∧ SV.2 ∈ (𝓝 0 : Filter F))
+      fun SV => { f : E →SLₚₜ[σ] F | ∀ x ∈ SV.1, f x ∈ SV.2 } :=
+  PointwiseConvergenceCLM.hasBasis_nhds_zero_of_basis (𝓝 0).basis_sets
+
+/-- In the topology of pointwise convergence, `a` converges to `a₀` iff for every `x : E` the map
+`a · x` converges to `a₀ x`. -/
+theorem tendsto_iff_forall_tendsto {p : Filter ι} {a : ι → E →SLₚₜ[σ] F} {a₀ : E →SLₚₜ[σ] F} :
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/Module/PointwiseConvergence.lean:80]: I think you'll make your life easier by adding these two lemmas right after [UniformOnFun.uniformContinuous_restrict](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/UniformSpace/UniformConvergenceTopology.html#UniformOnFun.uniformContinuous_restrict)
```lean
theorem uniformEmbedding_toFun_finite :
    UniformEmbedding (toFun _ : (α →ᵤ[{s | s.Finite}] β) → (α → β)) := by
  refine ⟨⟨?_⟩, Function.injective_id⟩
  simp_rw [Pi.uniformity, comap_iInf, comap_comap]
  refine HasBasis.ext (hasBasis_iInf' fun i ↦ (Filter.basis_sets _).comap _)
    (UniformOnFun.hasBasis_uniformity α β _ ⟨∅, finite_empty⟩
      (directedOn_of_sup_mem fun _ _ ↦ .union))
    (fun ⟨S, U⟩ ⟨hS, hU⟩ ↦ ⟨⟨S, ⋂ x ∈ S, U x⟩, ⟨⟨hS, biInter_mem hS |>.mpr hU⟩,
      fun f hf ↦ mem_iInter₂.mpr fun x hx ↦ mem_iInter₂.mp (hf x hx) x hx⟩⟩)
    (fun ⟨S, U⟩ ⟨hS, hU⟩ ↦ ⟨⟨S, fun _ ↦ U⟩, ⟨hS, fun _ _ ↦ hU⟩, fun f hf x hx ↦
      mem_iInter₂.mp hf x hx⟩)

theorem embedding_toFun_finite :
    Embedding (toFun _ : (α →ᵤ[{s | s.Finite}] β) → (α → β)) :=
  (uniformEmbedding_toFun_finite α β).embedding
```
and then adding to the current file
```lean
variable (σ E F) in
protected theorem embedding_coeFn : Embedding ((↑) : (E →SLₚₜ[σ] F) → (E → F)) :=
  let _: UniformSpace F := TopologicalAddGroup.toUniformSpace F
  have _ : UniformAddGroup F := comm_topologicalAddGroup_is_uniform
  (UniformOnFun.embedding_toFun_finite E F).comp (UniformConvergenceCLM.embedding_coeFn σ F _)
```

This and the corresponding result about `UniformConvergenceCLM` will allow you to use any piece of API about product topologies and uniform convergence topologies, which mean you wouldn't have to do any nontrivial proofs I think.

E.g this particular lemma would follow immediately from [Inducing.tendsto_nhds_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Maps.html#Inducing.tendsto_nhds_iff) and [tendsto_pi_nhds](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Constructions.html#tendsto_pi_nhds), the one about continuity from [Inducing.continuous_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Maps.html#Inducing.continuous_iff) and [continuous_pi_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Constructions.html#continuous_pi_iff), etc...

**Comment by ADedecker** [comment]
Is there a reason you only setup the topology and not the uniform structure? If that's because it's too annoying, I agree, and I'd be happy to help.

**Review by kim-em — APPROVED** [review]

**Comment by kim-em** [comment]
bors merge
